US08022062B2
(±)-7-Chloro-6-(tetrahydropyran-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 330, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 2-(bromomethyl)tetrahydropyran to give, after deprotection by the General Procedure 1-4, the title compound as a white solid. MS (APCI+) m/z: 312 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 2-(bromomethyl)tetrahydropyran | BrCC1OCCCC1 | C6H11BrO
product | (±)-7-Chloro-6-(tetrahydropyran-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1OCCCC1 | InChI=1S/C16H22ClNOS.ClH/c17-15-5-4-12-6-8-18-9-7-14(12)16(15)20-11-13-3-1-2-10-19-13;/h4-5,13,18H,1-3,6-11H2;1H
